US06953790B2
Step A. 5-Bromo-1-(2-methoxyethyl)-3-nitropyridin-2(1H)-one
Cesium carbonate (14.88 g, 45.66 mmol) was added to a solution of 5-bromo-3-nitropyridin-2-ol (10.0 g, 45.7 mmol) and 2-bromoethyl methyl ether (4.29 mL, 45.66 mmol) in N,N-dimethylformamide (400 mL). After 3 h, additional 2-bromoethyl methyl ether (4.29 mL, 45.7 mmol) was added, and the reaction was heated to 60° C. After 4 h, water was added. The mixture was extracted with ethyl acetate (3×), and the combined organic extracts were washed with saturated brine, dried over sodium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→40% ethyl acetate/hexanes) gave the title compound (7.39 g). MS 277 (M).

reactant | Cesium carbonate | 45.66 mmol, 14.88 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-3-nitropyridin-2-ol | 45.7 mmol, 10.0 g | BrC=1C=C(C(=NC1)O)[N+](=O)[O-] | C5H3BrN2O3
reactant | 2-bromoethyl methyl ether | 45.66 mmol, 4.29 mL | COCCBr | C3H7BrO
reactant | 2-bromoethyl methyl ether | 45.7 mmol, 4.29 mL | COCCBr | C3H7BrO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
product | 5-Bromo-1-(2-methoxyethyl)-3-nitropyridin-2(1H)-one | 7.39 g | BrC=1C=C(C(N(C1)CCOC)=O)[N+](=O)[O-] | C8H9BrN2O4
